US07732446B1
As described in Example 1, 84 mg of {4-[(benzyl-ethyl-carbamoyl)-methyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 64 mg (95%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-benzyl-N-ethyl-acetamide hydrochloride. MS: APCI (M+H) calc'd for C23H27N3O3+H 394.5; found 394.2.

reactant | {4-[(benzyl-ethyl-carbamoyl)-methyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 84 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(CC)CC1=CC=CC=C1)=O)=O | C28H35N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-benzyl-N-ethyl-acetamide hydrochloride | 64 mg, 95% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N(CC)CC1=CC=CC=C1 | InChI=1S/C23H27N3O3.ClH/c1-4-26(15-16-8-6-5-7-9-16)23(27)10-17-14-25-20(13-24)19-12-22(29-3)21(28-2)11-18(17)19;/h5-9,11-12,14H,4,10,13,15,24H2,1-3H3;1H
